US08431563B2
The 2-(1-propyn-1-yl)piperazine bis(trifluoroacetate (110 mg, 0.312 mmol) was dissolved in CH2Cl2 in a 50 mL round-bottomed flask and was then cooled to 0° C. To this solution was added an excess of triethylamine (152 μL, 1.093 mmol) followed by thiophene-2-sulfonyl chloride (57.0 mg, 0.312 mmol, Sigma-Aldrich, St. Louis, Mo.). The mixture was warmed slowly to room temperature and stirred for 2 h. Afterwards, the mixture was concentrated and absorbed onto silica gel. The crude material was purified via column chromatography (about 40 g silica gel, 0% to 10% MeOH in CH2Cl2) to give 3-(1-propyn-1-yl)-1-(2-thiophenylsulfonyl)piperazine (42 mg) as a foamy solid.

reactant | 2-(1-propyn-1-yl)piperazine | C(#CC)C1NCCNC1 | C7H12N2
reactant | 2-(1-propyn-1-yl)piperazine bis(trifluoroacetate) | 0.312 mmol, 110 mg | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.C(#CC)C1NCCNC1
reactant | triethylamine | 1.093 mmol, 152 μL | C(C)N(CC)CC | C6H15N
reactant | thiophene-2-sulfonyl chloride | 0.312 mmol, 57.0 mg | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(1-propyn-1-yl)-1-(2-thiophenylsulfonyl)piperazine | 42 mg | C(#CC)C1CN(CCN1)S(=O)(=O)C=1SC=CC1 | C11H14N2O2S2
